US05929117
3-(3,4-Dimethoxyphenyl)-3-(3'-nitrophenyl)acrylonitrile was prepared analogously to methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate using 3,4-dimethoxy-3'nitrobenzophenone (1.44 g, 5 mmol), diethylcyanomethylphosphonate (0.91 mL, 5.5 mmol) and lithium hexamethyldisilazide (4.2 mL, 5.5 mmol, 1.3M) with a reaction time of 24 hours at room temperature. The crude product was purified by flash chromatography (silica gel, 3% hexane/methylene chloride) to afford 1.12 g (72%) of a mixture of the E and Z isomers as a yellow solid: mp 117.5-120° C.; 1H NMR (CDCl3) δ 8.40-8.17 (m, 4H), 7.90-7.55(m, 4 H), 7.08-6.89 (m, 6H), 5.84 (s, 1H), 5.71 (s, 1H), 3.95 (s, 3H), 3.92 (s, 3H), 3.85 (s, 3H); 13CNMR (CDCl3) δ 160.2, 160.1, 151.7, 151.1, 149.2, 148.3, 148.2, 141.0, 138.8, 135.4, 134.4, 129.9, 129.7, 129.7, 128.1, 124.8, 124.6, 124.4, 123.3, 123.1, 122.3, 117.4, 117.3, 112.3, 111.0, 110.4, 95.7, 94.8, 56.0, 55.9; Anal. Calcd for C17H14N2O4. Theoretical: C, 65.80; H, 4.55; N, 9.03. Found: C, 65.57; H, 4.64; N

reactant | methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3,4-dimethoxy-3'nitrobenzophenone | 5 mmol, 1.44 g | COC=1C=C(C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1OC | C15H13NO5
reactant | diethylcyanomethylphosphonate | 5.5 mmol, 0.91 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 5.5 mmol, 1.3M, 4.2 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | 3-(3,4-Dimethoxyphenyl)-3-(3'-nitrophenyl)acrylonitrile | COC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=CC=C1)[N+](=O)[O-] | C17H14N2O4
